US07973051B2
iii) Acetic acid 2-(3-methyl-5-sulfamoyl-thiophen-2-yl)-ethyl ester
To a solution of the above prepared crude acetic acid 2-(5-chlorosulfonyl-3-methyl-thiophen-2-yl)-ethyl ester (53.3 g, ca. 177 mmol) in DCM (180 mL) were added 25% aqueous NH3 (53 mL, ˜700 mmol) and the biphasic reaction mixture was vigorously stirred at rt for 18 h. After the addition of DCM (1200 mL) the reaction mixture was washed with 10% brine (2×400 mL) and the aqueous layers were extracted with DCM (600 mL). The combined organic layers were dried (Na2SO4) and evaporated affording 48.5 g yellow crystalline residue which was crystallized from hot isobutyl acetate (500 mL) affording 34.8 g (74.7%, GC 97.9%) product as a off white powder. ESI-MS (m/z) 286 (M+Na+, 59); 264 (M+H+, 19).

reactant | acetic acid 2-(5-chlorosulfonyl-3-methyl-thiophen-2-yl)-ethyl ester | ca. 177 mmol, 53.3 g | ClS(=O)(=O)C1=CC(=C(S1)CCOC(C)=O)C | C9H11ClO4S2
reactant | NH3 | ˜700 mmol, 53 mL | N | H3N
solvent | DCM | 180 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1200 mL | C(Cl)Cl | CH2Cl2
product | Acetic acid 2-(3-methyl-5-sulfamoyl-thiophen-2-yl)-ethyl ester | 48.5 g | CC1=C(SC(=C1)S(N)(=O)=O)CCOC(C)=O | C9H13NO4S2
